US09290517B2
Step A: (3R,3aR,6R,6aR)-6-[1-allyl-6-chloro-5-[4-[5-(2,2,2-trifluoroethyl)-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]phenyl]imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
2-iodo-1,1,1-trifluoroethane (12.5 μl, 0.127 mmol) was added to a stirred solution of (3R,3aR,6R,6aR)-6-[1-allyl-6-chloro-5-[4-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)phenyl]imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (59.9 mg, 0.115 mmol) in dioxane (0.46 ml). The reaction mixture was a pale yellow solution that was heated to 80° C. After 2 days, N,N-diisopropylethylamine (40 μl, 0.229 mmol), 2,2,2-trifluoroethyl trifluoromethane-sulfonate (34 μl, 0.236 mmol), and additional dioxane (0.2 ml) were added to the reaction mixture. After stirring an additional 18 hours, the reaction mixture was cooled to room temperature. The reaction mixture was evaporated under reduced pressure to give a dark amber residue. The residue was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water+0.05% TFA gradient followed by a 80% acetonitrile/water+0.05% TFA flush. The product fractions were combined and evaporated under reduced pressure to give the desired product as an amber residue. LC-MS: calculated for C28H26ClF3N6O4 602.17 observed m/e: 603.19 (M+H)+ (Rt 1.20/2 min)

reactant | 2-iodo-1,1,1-trifluoroethane | 0.127 mmol, 12.5 μl | ICC(F)(F)F | C2H2F3I
reactant | (3R,3aR,6R,6aR)-6-[1-allyl-6-chloro-5-[4-(5,6-dihydro-4H-pyrrolo[3,4-c]pyrazol-2-yl)phenyl]imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.115 mmol, 59.9 mg | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)C2=CC=C(C=C2)N2N=C1C(=C2)CNC1)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C26H25ClN6O4
reactant | N,N-diisopropylethylamine | 0.229 mmol, 40 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,2,2-trifluoroethyl trifluoromethane-sulfonate | 0.236 mmol, 34 μl | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | dioxane | 0.46 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | (3R,3aR,6R,6aR)-6-[1-allyl-6-chloro-5-[4-[5-(2,2,2-trifluoroethyl)-4,6-dihydropyrrolo[3,4-c]pyrazol-2-yl]phenyl]imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | C(C=C)N1C(=NC2=NC(=C(C=C21)Cl)C2=CC=C(C=C2)N2N=C1C(=C2)CN(C1)CC(F)(F)F)O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2O | C28H26ClF3N6O4
